US06478979B1
CF3CF(OCH3)CF(CF3)2—1,1,1,2,3,4,4,4-Octafluoro-3-trifluoromethyl-2-methoxybutane
To a one liter round bottom flask equipped with an overhead stirrer, a condenser and an addition funnel was charged 12.8 g (0.22 mol) of anhydrous potassium fluoride, 106 g of anhydrous diglyme, 4 g of methyltrialkyl(C9-C10)ammonium chloride (ADOGEN™ 464, available from Aldrich Chemical Company), 53.2 g (0.20 mol) of CF3C(O)CF(CF3)2 (the perfluorinated ketone was prepared as described in Example 13), and 33.9 g (0.72 mol) of dimethyl sulfate. The resulting mixture was allowed to react at 40° C. for approximately 24 hours. Then approximately 25 g of a 50% aqueous potassium hydroxide solution was added to the reaction mixture, followed by 200 mL of water. The resulting crude product was azeotropically distilled from the reaction mixture. The lower phase of the resulting distillate was separated from the upper phase, was washed with water, was dried over anhydrous sodium sulfate, and was distilled (boiling point of 82-83° C.; yield of 45 g). The product identity, 2-methoxy-perfluoro(3-methylbutane), was confirmed by gcms and FTIR.

reactant | potassium fluoride | 0.22 mol, 12.8 g | [F-].[K+]
reactant | CF3C(O)CF(CF3)2 | 0.20 mol, 53.2 g | C(F)(F)(F)C(=O)C(F)(C(F)(F)F)C(F)(F)F | C5F10O
reactant | dimethyl sulfate | 0.72 mol, 33.9 g | S(=O)(=O)(OC)OC | C2H6O4S
reactant | potassium hydroxide | [OH-].[K+]
solvent | water | 200 mL | O | H2O
solvent | diglyme | 106 g | COCCOCCOC | C6H14O3
product | CF3CF(OCH3)CF(CF3)2 1,1,1,2,3,4,4,4-Octafluoro-3-trifluoromethyl-2-methoxybutane | C(F)(F)(F)C(F)(OC)C(F)(C(F)(F)F)C(F)(F)F.FC(C(C(C(F)(F)F)(C(F)(F)F)F)(OC)F)(F)F | 2C6H3F11O
